US04615966
To a stirred solution of 5-bromo-6-methylsulfamoylindoline, 55.92 g (0.19 mol) in 150 ml dioxane was added 41.79 gm (0.184 mol) of 2,3-dichloro-5,6-dicyanobenzoquinone at 25° C. The resulting brown solution was heated to 80° C. for 2 hours when thin layer chromatography using chloroform showed that the reaction was complete. The reaction mixture was allowed to cool, filtered through Celite and the filtrate concentrated under reduced pressure. The resulting brown solid was stirred in a mixture of methylene chloride/ether 50/50 and then filtered. This procedure was carried out two additional times and gave 35.2 g (63.9% by weight yield) of 5-bromo-6-methylsulfamoylindole.

reactant | 5-bromo-6-methylsulfamoylindoline | BrC=1C=C2CCNC2=CC1S(NC)(=O)=O | C9H11BrN2O2S
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 0.184 mol, 41.79 gm | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 5-bromo-6-methylsulfamoylindole | 35.2 g | BrC=1C=C2C=CNC2=CC1S(NC)(=O)=O | C9H9BrN2O2S
